US05552534
C. Methyl 2,3,4-tri-O-benzyl-β-D-glucopyranoside
To a stirred solution of methyl 6-O-tert-butyldiphenylsilyl-2,3,4-tri-O-benzyl-β-D-glucopyranoside(2.81 g, 3.98 mmol) in dry THF (40 ml, 0.1M) at room temperature was added tetrabutyl ammonium fluoride (4.37 ml, 4.37 mmol, 1M solution in THF). After stirring for 3 hours, the reaction solution was diluted with ethyl acetate (300 ml) and washed with water (1×100 ml) and saturated aqueous NaCl (1×100 ml), and dried with magnesium sulfate. Concentration and flash chromatography (silica, 50% ether in petroleum ether) provided pure target compound (1.62 g, 88%) as a white solid.

reactant | methyl 6-O-tert-butyldiphenylsilyl-2,3,4-tri-O-benzyl-β-D-glucopyranoside | 3.98 mmol, 2.81 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](OC)O1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C44H50O6Si
reactant | tetrabutyl ammonium fluoride | 4.37 mmol, 1M, 4.37 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 0.1M, 40 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 2,3,4-tri-O-benzyl-β-D-glucopyranoside | 1.62 g, 88% | C(C1=CC=CC=C1)O[C@H]1[C@H](OC)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)CO | C28H32O6
